US07709528B2
Tetrabromomethane (21.8 g, 166 mmol) was added to a cooled solution of biphenyl-4-carbaldehyde (10.0 g, 54.9 mmol) and triphenylphosphine (35.5 g, 131.8 mmol) in dry methylene chloride (100 mL). Reaction mixture was stirred for 3 h at ambient temperature and saturated solution of sodium hydrogen carbonate (50 mL) was added. The organic layer was washed with water (50 mL), dried with anhydrous magnesium sulfate and subsequently evaporated in vacuo. The crude product was twice re-crystallized from methanol giving 1,1-dibromo-2-(4-biphenylyl)ethene as a white solid.

reactant | Tetrabromomethane | 166 mmol, 21.8 g | BrC(Br)(Br)Br | CBr4
reactant | biphenyl-4-carbaldehyde | 54.9 mmol, 10.0 g | C1(=CC=C(C=C1)C=O)C1=CC=CC=C1 | C13H10O
reactant | triphenylphosphine | 131.8 mmol, 35.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium hydrogen carbonate | 50 mL | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 1,1-dibromo-2-(4-biphenylyl)ethene | BrC(=CC1=CC=C(C=C1)C1=CC=CC=C1)Br | C14H10Br2
